US08138179B2
b2) 5-[3-(2-Hydroxyethyl)-3H-imidazol-4-yl]-7,8-dihydronaphthalene-2-carbonitrile
43.0 mmol of sodium borohydride are added in portions to a solution of 19.5 mmol of ethyl [5-(6-cyano-3,4-dihydronaphthalen-1-yl)imidazol-1-yl]acetate in 150 ml of ethanol at 0° C. The reaction mixture is stirred at room temperature for 2 hours and then evaporated. The residue is taken up in saturated aqueous sodium bicarbonate solution, and dichloromethane is added to the mixture. The reaction mixture is stirred at room temperature for 10 minutes and the phases are separated. The aqueous phase is back-extracted with dichloromethane, and the combined organic phases are washed with brine, dried with sodium sulphate and evaporated. The title compound is obtained as a white solid from the residue by flash chromatography (SiO2 60F). Rf=0.16 (dichloromethane-methanol-25% aqueous ammonia solution 200:20:1); Rt=5.04 (gradient II).

reactant | sodium borohydride | 43.0 mmol | [BH4-].[Na+]
reactant | ethyl [5-(6-cyano-3,4-dihydronaphthalen-1-yl)imidazol-1-yl]acetate | 19.5 mmol | C(#N)C=1C=C2CCC=C(C2=CC1)C1=CN=CN1CC(=O)OCC | C18H17N3O2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 5-[3-(2-Hydroxyethyl)-3H-imidazol-4-yl]-7,8-dihydronaphthalene-2-carbonitrile | OCCN1C=NC=C1C=1C=2C=CC(=CC2CCC1)C#N | C16H15N3O
